US04966891
3-Furoic acid (0.355 g) and 2,4,6-triisopropyl benzene-sulfonyl chloride (0.96 g) were dissolved in dry pyridine (5 ml). The mixture was stirred for 1 hour. To the mixture were added 2',3'-bis-O-(tert-butyldimethylsilyl)-5'-deoxy-5-fluorocytidine (1.0 g) obtained in Reference example (a) and 4-dimethylaminopyridine (0.80 g). After stirring of the mixture for 12 hours at room temperature. pyridine was evaporated under reduced pressure. The residue was then treated as in Example 48 to give 0.55 g of 5'-deoxy-5-fluoro-N4 -(3-furoyl)cytidine, mp 173°~174° C. (ethanol); MS 340 (MH+).

reactant | 3-Furoic acid | 0.355 g | O1C=C(C=C1)C(=O)O | C5H4O3
reactant | 2,4,6-triisopropyl benzene-sulfonyl chloride | 0.96 g | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)Cl | C15H23ClO2S
reactant | 2',3'-bis-O-(tert-butyldimethylsilyl)-5'-deoxy-5-fluorocytidine | 1.0 g | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)C)N1C(=O)N=C(N)C(=C1)F | C21H40FN3O4Si2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | 0.80 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 5'-deoxy-5-fluoro-N4 -(3-furoyl)cytidine | 0.55 g | FC=1C(=NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](C)O2)C1)=O)NC(=O)C1=COC=C1 | C14H14FN3O6
